US04111942
10-(Carbethoxyamino)-8-[5-(4-fluorophenyl)-2-pentyl]-5,5-dimethyl-5H-[1]benzopyrano[4,3-c]pyridine (X)
The title compound was prepared by reacting 10-amino-8-[5-(4-fluorophenyl)-2-pentyl]-5,5-dimethyl-5H-[1]benzopyrano[4,3-c]pyridine with ethyl chloroformate according to the method of Example 3.

reactant | 10-amino-8-[5-(4-fluorophenyl)-2-pentyl]-5,5-dimethyl-5H-[1]benzopyrano[4,3-c]pyridine | NC1=CC(=CC2=C1C=1C=NC=CC1C(O2)(C)C)C(C)CCCC2=CC=C(C=C2)F | C25H27FN2O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 10-(Carbethoxyamino)-8-[5-(4-fluorophenyl)-2-pentyl]-5,5-dimethyl-5H-[1]benzopyrano[4,3-c]pyridine | C(=O)(OCC)NC1=CC(=CC2=C1C=1C=NC=CC1C(O2)(C)C)C(C)CCCC2=CC=C(C=C2)F | C28H31FN2O3
